US05322947
After 1,047 parts of 2,2,6,6-tetramethyl-4-piperidone, 373 parts of hexamethylenediamine, 2,260 parts of methanol and 5.5 parts of 5% platinum-on-carbon catalyst were charged into an autoclave, the temperature of the mixture was gradually elevated from 30° C. and the mixture was subjected to hydrogenation at a hydrogen pressure of 5 kg/cm2 while the temperature was kept at 60°-70° C. It took 8 hours to complete the hydrogenation. The resultant mixture was filtered at about 50°-60° C. to remove the catalyst therefrom, and then the resultant filtrate was subjected to distillation to remove the solvent and the water formed as by-product during the reaction, thereby obtaining 1,325 parts of crude N,N'-bis (2,2,6,6-tetramethyl-4-piperidyl)hexamethylenediamine having a purity of 92.9%, a 2,2,6,6-tetramethyl-4-piperidone content of 0.8%, and an APHA value of 400.

reactant | 2,2,6,6-tetramethyl-4-piperidone | CC1(NC(CC(C1)=O)(C)C)C | C9H17NO
reactant | hexamethylenediamine | NCCCCCCN | C6H16N2
reactant | hydrogen | [H][H] | H2
catalyst | platinum-on-carbon | [Pt] | Pt
solvent | methanol | CO | CH4O
product | N,N'-bis (2,2,6,6-tetramethyl-4-piperidyl)hexamethylenediamine | CC1(NC(CC(C1)NCCCCCCNC1CC(NC(C1)(C)C)(C)C)(C)C)C | C24H50N4
